US06043246
(1) Preparation of 5-(4-methoxyphenyl)-3-phenoxycarbonyl-aminopyrazole
Phenyl chlorocarbonate (0.87 ml) was added to a solution of 3-amino-5-(4-methoxyphenyl)pyrazole (1.19 g) in pyridine (10 ml), and the mixture was stirred at room temperature for 6 hours. The reaction solution was partitioned between ethyl acetate (50 ml) and water (30 ml), and the organic layer was washed with 1 N hydrochloric acid (50 ml×2), saturated aqueous sodium bicarbonate (50 ml) and saturated brine (50 ml) and then dried over anhydrous magnesium sulfate. Then, the solvent was distilled away. The resulting residue was crystallized from ethyl acetate/hexane to obtain the title compound (0.95 g) as pale yellow crystals (melting point: 286-291° C.).

reactant | Phenyl chlorocarbonate | 0.87 ml | C(OC1=CC=CC=C1)(=O)Cl | C7H5ClO2
reactant | 3-amino-5-(4-methoxyphenyl)pyrazole | 1.19 g | NC1=NNC(=C1)C1=CC=C(C=C1)OC | C10H11N3O
reactant | pyridine | 10 ml | N1=CC=CC=C1 | C5H5N
product | 5-(4-methoxyphenyl)-3-phenoxycarbonyl-aminopyrazole | 0.95 g | COC1=CC=C(C=C1)C1=C(C(=NN1)C(=O)OC1=CC=CC=C1)N | C17H15N3O3
